US07777047B2
methyl 2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazole-5-carboxylate
To a solution of 2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazole-5-carboxylic acid (1.48 g) in N,N-dimethylformamide (30 ml) were added 1H-1,2,3-benzotriazol-1-ol (0.716 g), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (1.02 g), N,N-dimethyl-4-aminopyridine (0.043 g) and methanol (0.215 ml), and the mixture was stirred at room temperature for 3 days. 10% Aqueous citric acid solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=50:50-100:0), and recrystallized from hexane-ethyl acetate to give the title compound (1.00 g, yield 65%) as colorless crystals.

reactant | 2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazole-5-carboxylic acid | 1.48 g | CN(C=1C=CC=C2C=C(NC12)C=1SC(CN1)C(=O)O)S(=O)(=O)C=1SC=CC1 | C17H15N3O4S3
reactant | 1H-1,2,3-benzotriazol-1-ol | 0.716 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 1.02 g | Cl.CN(CCCN=C=NCC)C
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
catalyst | N,N-dimethyl-4-aminopyridine | 0.043 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | methanol | 0.215 ml | CO | CH4O
product | methyl 2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazole-5-carboxylate | 1.00 g, yield 65% | CN(C=1C=CC=C2C=C(NC12)C=1SC(CN1)C(=O)OC)S(=O)(=O)C=1SC=CC1 | C18H17N3O4S3
